US07704996B2
To a solution of 4,6-dichloro-2-methylsulfanylpyrimidine-5-carbonyl chloride in THF (15 mL), triethylamine (2.3 mmol) and benzylamine (2.5 mmol) are added at 0° C. After stirred at room temperature for 2 h, the reaction mixture is diluted with AcOEt and H2O. The mixture is extracted twice with AcOEt. The organic layer is dried over Na2SO4, filtered, and concentrated. The residue is purified by silica gel column chromatography to give 4,6-dichloro-2-methylsulfanylpyrimidine-5-carboxylic acid benzylamide as a white solid. 1H-NMR (CDCl3), δ 2.57 (3H, s), 4.66 (2H, d), 6.08 (1H, br s), 7.31-7.35 (2H, m), 7.36-7.38 (3H, m).

reactant | 4,6-dichloro-2-methylsulfanylpyrimidine-5-carbonyl chloride | ClC1=NC(=NC(=C1C(=O)Cl)Cl)SC | C6H3Cl3N2OS
reactant | triethylamine | 2.3 mmol | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 2.5 mmol | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 4,6-dichloro-2-methylsulfanylpyrimidine-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1Cl)SC)Cl | C13H11Cl2N3OS
